US07691882B2
3-(3-(4-(Thiophen-3-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (4-(thiophen-3-ylmethoxy)-phenyl)-acetohydroximoyl chloride (150 mg, 0.532 mmol) described in Manufacturing Example 77-1-4 and 3-ethynyl-pyridin-2,6-diamine (45.2 mg, 0.339 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (185 μL, 1.33 mmol). This reaction mixture was stirred for 1.5 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1˜ethyl acetate) to obtain the title compound (73 mg, 36%).

reactant | (4-(thiophen-3-ylmethoxy)-phenyl)-acetohydroximoyl chloride | 0.532 mmol, 150 mg | S1C=C(C=C1)COC1=CC=C(C=C1)CC(=NO)Cl | C13H12ClNO2S
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.339 mmol, 45.2 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.33 mmol, 185 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(Thiophen-3-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 73 mg, 36% | S1C=C(C=C1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H18N4O2S
